US05663440
In a 10-liters three-necked flask equipped with a stirring device, a thermometer and a nitrogen substituting device, 703 g (4.33 mole) of iron chloride and 1.7 liters of 1,2-dichloroethane were mixed, and 732 g (3.94 mole) of paranitrobenzoyl chloride was introduced with ice cooling to be dissolved. After warming the reaction solution to 80° C., a solution of 395 g (1.67 mole) of diphenylcyclohexane in 630 milliliters of 1,2-dichloroethane was added dropwise for 3 hours and 40 minutes. After the dropwise addition was ended, the solution was stirred gently at reflux for 6 hours. After the end of the reaction was confirmed by a liquid chromatography, the reaction solution was poured in 2 liters of ice, 1 liter of a 4N-HCl aqueous solution was added and then extracted with 1.5 liters of chloroform. The solution was washed with a 6N-HCl aqueous solution, an aqueous solution of sodium hydrogencarbonate, brine and water, and then dried with magnesium sulfate. After removing off chloroform by a rotary evaporator, 700 milliliters of ethyl acetate was added still hot and cooled to deposit crystals. Deposited crystals were filtered off and the filtrate was treated with a silica gel column and purified by recrystallization from chloroform/ethyl acetate, to obtain 485 g of 1,1-bis(4-(4-nitrobenzoyl)phenyl)cyclohexane as crystals.

reactant | paranitrobenzoyl chloride | 3.94 mole, 732 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | diphenylcyclohexane | 1.67 mole, 395 g | C1(=CC=CC=C1)C1(CCCCC1)C1=CC=CC=C1 | C18H20
reactant | HCl | Cl | ClH
solvent | 1,2-dichloroethane | 630 milliliters | ClCCCl | C2H4Cl2
catalyst | iron chloride | 4.33 mole, 703 g | [Fe](Cl)Cl
solvent | 1,2-dichloroethane | 1.7 liters | ClCCCl | C2H4Cl2
product | 1,1-bis(4-(4-nitrobenzoyl)phenyl)cyclohexane | 485 g | [N+](=O)([O-])C1=CC=C(C(=O)C2=CC=C(C=C2)C2(CCCCC2)C2=CC=C(C=C2)C(C2=CC=C(C=C2)[N+](=O)[O-])=O)C=C1 | C32H26N2O6
